US08030304B2
7-(1-Ethyl-propyl)-3-(2-methoxymethyl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Under a nitrogen atmosphere, add n-butyl lithium (2.5 M in hexane, 0.4 mL, 1.0 mmol) to a solution of 7-(1-ethyl-propyl)-2,5-dimethyl-3-thiazol-5-yl-pyrazolo[1,5-a]pyrimidine (300 mg, 1.0 mmol) in THF (3 mL) at −78° C. Stir 30 min and add 1-iodomethyl methyl ether (205 mg, 1.2 mmol). Continue stirring for one hour and then slowly warm up to room temperature and stir overnight. Quench the reaction by adding saturated ammonium chloride solution and extract with ethyl acetate. Wash the organic layer with brine, dry over sodium sulfate, filter, and concentrate under vacuum to a residue. Purify the crude material by flash chromatography, eluting with hexanes/ethyl acetate (10/2) to give the title compound as a yellow foam (184 mg). MS (APCI) m/z 345.3 (M+1)+.

reactant | n-butyl lithium | 1.0 mmol, 2.5 M, 0.4 mL | C(CCC)[Li]
reactant | 7-(1-ethyl-propyl)-2,5-dimethyl-3-thiazol-5-yl-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 300 mg | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=CN=CS2)C)C | C16H20N4S
reactant | 1-iodomethyl methyl ether | 1.2 mmol, 205 mg | COCI | C2H5IO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-(1-Ethyl-propyl)-3-(2-methoxymethyl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 184 mg | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=CN=C(S2)COC)C)C | C18H24N4OS
